US06566387B1
The standard procedure was followed using N-(4-cyano-2-t-butyldimethylsilanoxyphenyl)-N′-(2-bromophenyl)carbodiimide (102 mg, 0.24 mmol), diisopropylethylamine (60 μL, 0.26 mmol), hydroxy L-proline methyl ester hydro chloride (44 mg, 0.26 mmol) and TBAF (0.29 mL, 0.29 mmol) in THF (2.5 mL) and methanol (0.1 mL) to give 80 mg (78%) of 4-[[(6R,7aS)-2-(2-bromophenyl)-hexahydro-6-hydroxy-1-oxo-3H-pyrrolo[1,2-c]imidazol-3-ylidene]amino]-3-hydroxybenzonitrile as a tan powder. MS(EI) m/e 427 (100 (M+)).

reactant | N-(4-cyano-2-t-butyldimethylsilanoxyphenyl)-N′-(2-bromophenyl)carbodiimide | 0.24 mmol, 102 mg | C(#N)C1=CC(=C(C=C1)N=C=NC1=C(C=CC=C1)Br)O[Si](C)(C)C(C)(C)C | C20H22BrN3OSi
reactant | diisopropylethylamine | 0.26 mmol, 60 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydroxy L-proline methyl ester hydro chloride | 0.26 mmol, 44 mg | Cl.COC([C@H]1N(CCC1)O)=O
reactant | TBAF | 0.29 mmol, 0.29 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.1 mL | CO | CH4O
product | 4-[[(6R,7aS)-2-(2-bromophenyl)-hexahydro-6-hydroxy-1-oxo-3H-pyrrolo[1,2-c]imidazol-3-ylidene]amino]-3-hydroxybenzonitrile | 80 mg, 78% | BrC1=C(C=CC=C1)N1C(N2[C@H](C1=O)C[C@H](C2)O)=NC2=C(C=C(C#N)C=C2)O | C19H15BrN4O3
